US07816557B2
3-{4-[1-(4′-Fluoro-2′-methyl-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid, Isomer 1
This compound is made in a substantially similar manner as Example 117 using isomer 1 of 3-{4-[1-(4-bromo-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester and 4-fluoro-2-methyl-phenylboronic acid as starting materials in step D. MS (ES): 492.3 [M+H]+.

reactant | 3-{4-[1-(4-bromo-phenoxy)-heptyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)Br)=O)=O | C24H30BrNO4
reactant | 4-fluoro-2-methyl-phenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 3-{4-[1-(4′-Fluoro-2′-methyl-biphenyl-4-yloxy)-heptyl]-benzoylamino}-propionic acid | FC1=CC(=C(C=C1)C1=CC=C(C=C1)OC(CCCCCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C30H34FNO4
